US09278910B2
To a stirring solution of 4′-methyl-[1,1′-biphenyl]-4-carbonitrile (524 mg, 2.71 mmol) in DMF (10 mL) were added triethylamine (0.98 mL, 6.78 mmol) and hydroxylamine hydrochloride (471 mg, 6.78 mmol). After stirring at room temperature for 20 h, the reaction mixture was poured into NaHCO3 (50 mL), water (20 mL) and DCM (20 mL) then stirred for 20 min. The precipitate was isolated by filtration using water (2×10 mL) to wash the filter cake. The filter cake was then evaporated with toluene (2×5 mL) and dried under vacuum to afford 435 mg (70%) of N′-hydroxy-4′-methyl-[1,1′-biphenyl]-4-carboximidamide INT-40 as a white solid. LCMS-ESI (m/z) calculated for C14H14N2O: 226; found 227 [M+H]+, tR=1.34 min (Method 10).

reactant | 4′-methyl-[1,1′-biphenyl]-4-carbonitrile | 2.71 mmol, 524 mg | CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C14H11N
reactant | triethylamine | 6.78 mmol, 0.98 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 6.78 mmol, 471 mg | Cl.NO
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | N′-hydroxy-4′-methyl-[1,1′-biphenyl]-4-carboximidamide | 435 mg, 70% | ON=C(N)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14N2O
